US05877199
Ethyl 1,2,3,4-tetrahydrocarbazole-3-carboxylate
A solution of 1.08 g of phenylhydrazine and 1.84 g of ethyl 4-oxocyclohexanecarboxylate in 25 ml of acetic acid was refluxed for 30 minutes and then poured into ice water. The aqueous layer was extracted with ethyl acetate. The organic extract was washed thoroughly with a saturated aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 50 g of silica gel with a 4:1 v/v mixture of hexane and ethyl acetate as the eluent and then recrystallized from ethyl acetate and hexane, to yield 2.28 g of the title compound, melting at 95°-96° C.

reactant | phenylhydrazine | 1.08 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethyl 4-oxocyclohexanecarboxylate | 1.84 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | Ethyl 1,2,3,4-tetrahydrocarbazole-3-carboxylate | 2.28 g | C1CC(CC=2C3=CC=CC=C3NC12)C(=O)OCC | C15H17NO2
